US05354886
There are few literature or patent references regarding methods for producing ethylidene diacetate. Several of these references disclose methods wherein methyl acetate, carbon monoxide and hydrogen are reacted in the presence of a homogeneous catalyst to produce ethylidene diacetate. While these methods which employ a homogeneous catalyst produce good selectivity and yield, all suffer from several significant disadvantages, including difficulties associated with separating and purifying the reaction products from the catalyst. Conventional homogeneous catalysts employed in these methods include complexes of group VIII transition metals, preferably rhodium, ruthenium, iridium, palladium and platinum. Japanese Patent No. 51-115409 and European Patent No. 0028474 disclose methods for producing ethylidene diacetate using a homogeneous rhodium catalyst. Japanese Patent No. 54-98713 and British Patent No. 1,112,555 disclose methods for producing ethylidene diacetate using homogeneous palladium catalysts. All of these methods suffer from difficulties in separating and purifying the reaction products from the homogeneous catalyst. These prior methods require the use of a distillation process to separate the homogeneous catalyst from the reaction products. For example, the '474 European patent, which discloses a method having a yield of 75.3% ethylidene diacetate based on dimethyl acetate starting material, requires a distillation step to separate the homogeneous catalyst from the reaction products.

reactant | methyl acetate | C(C)(=O)OC | C3H6O2
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
product | ethylidene diacetate | C(C)(=O)OC(C)OC(C)=O | C6H10O4
